US07423031B2
To a solution of 3-[(4,5-dibromo-1H-pyrrole-2-carbonyl)-amino]-propionic acid ethyl ester (7.80 g, 21.1 mmol) in 160 mL of 1:1 mixture of dioxane-H2O is added KOH (4.72 g, 84.2 mmol). The mixture is stirred at room temperature overnight. The solution is extracted with Et2O (100 mL) and the aqueous layer is then acidified with HCl to a pH of less than 2 followed by extraction with EtOAc (80 mL×3). The EtOAc layers are combined, washed with brine, and dried with Na2SO4. After removal of solvent, 3-[(4,5-dibromo-1H-pyrrole-2-carbonyl)-amino]-propionic acid is obtained. It was used without further purification; 1H NMR (DMSO-d6) δ 2.47 (t, 2H, J=7.2 Hz), 3.39 (q, 2H, J=6.0 Hz), 6.90 (s, 1H), 8.17 (t, 1H, J=4.8 Hz); m/z [M++1] 340.9.

reactant | 3-[(4,5-dibromo-1H-pyrrole-2-carbonyl)-amino]-propionic acid ethyl ester | 21.1 mmol, 7.80 g | C(C)OC(CCNC(=O)C=1NC(=C(C1)Br)Br)=O | C10H12Br2N2O3
reactant | KOH | 84.2 mmol, 4.72 g | [OH-].[K+]
solvent | dioxane H2O | O1CCOCC1.O
product | 3-[(4,5-dibromo-1H-pyrrole-2-carbonyl)-amino]-propionic acid | BrC=1C=C(NC1Br)C(=O)NCCC(=O)O | C8H8Br2N2O3
